US06297266B1
227 mg of ethyl {4-[(2-guanidino-thiazole-4-carbonyl)-amino]-phenoxy}-acetate are stirred for 3 days at RT in 25% hydrochloric acid. The precipitate is filtered off under suction, washed with water, triturated in methanol, filtered off under suction and dried. There are obtained 165 mg of [4-[(2-guanidino-thiazole-4-carbonyl)- amino]-phenoxy]-acetic acid hydrochloride (1:1); m.p. 278° C., MS: 336 (M+H)+.

reactant | ethyl {4-[(2-guanidino-thiazole-4-carbonyl)-amino]-phenoxy}-acetate | 227 mg | N(C(=N)N)C=1SC=C(N1)C(=O)NC1=CC=C(OCC(=O)OCC)C=C1 | C15H17N5O4S
reactant | hydrochloric acid | Cl | ClH
product | [4-[(2-guanidino-thiazole-4-carbonyl)- amino]-phenoxy]-acetic acid hydrochloride | 165 mg | Cl.N(C(=N)N)C=1SC=C(N1)C(=O)NC1=CC=C(OCC(=O)O)C=C1 | InChI=1S/C13H13N5O4S.ClH/c14-12(15)18-13-17-9(6-23-13)11(21)16-7-1-3-8(4-2-7)22-5-10(19)20;/h1-4,6H,5H2,(H,16,21)(H,19,20)(H4,14,15,17,18);1H
